US06307047B1
2-(3-Chlorophenyl)-4-methoxy-5-[4-(methylthio)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 6 starting with 2-(3-chlorophenyl)-4-methoxy-5-bromo-3(2H)-pyridazinone in place of 2-benzyl-4-bromo-5-methoxy-3(2H)-pyridazinone and substituting 4-(methylthio)benzeneboronic acid in place of 4-fluorobenzeneboronic acid (yield: 3.3 g, 68%). 1H NMR (300 MHz, DMSO-d6) δ 2.54 (s, 3H), 4.03 (s, 3H), 7.40 (d, J=9.0 Hz, 2H), 7.50-7.64 (m, 5H), 7.73-7.77 (m, 1H), 8.18 (s, 1H). MS (DCI/NH3) m/z 359 (M+H)+.

reactant | 2-(3-chlorophenyl)-4-methoxy-5-bromo-3(2H)-pyridazinone | ClC=1C=C(C=CC1)N1N=CC(=C(C1=O)OC)Br | C11H8BrClN2O2
reactant | 4-(methylthio)benzeneboronic acid | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | NH3 | N | H3N
product | 2-(3-Chlorophenyl)-4-methoxy-5-[4-(methylthio)phenyl]-3(2H)-pyridazinone | ClC=1C=C(C=CC1)N1N=CC(=C(C1=O)OC)C1=CC=C(C=C1)SC | C18H15ClN2O2S
